US07122550B2
2-Methoxy-4-(6-{[(1R)-1-phenylethyl]amino}pyrazin-2-yl)phenol
Under a nitrogen atmosphere a mixture of 6-chloro-N-[(1R)-1-phenylethyl]pyrazin-2-amine (0.611 g, 2.61 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (0.785 g, 3.14 mmol), tetrakis(triphenylphosphine)palladium(0) (0.30 g, 0.26 mmol) and toluene (3 mL) was treated with 2M aqueous sodium carbonate solution (1.6 mL, 2.6 mmol). The resulting mixture was stirred vigorously whilst being heated under reflux for 24 hours. Once cool ethyl acetate was added and the mixture dried (MgSO4) and filtered. Removal of solvent in vacuo then yielded crude product, which was purified by column chromatography using dichloromethane:diethyl ether (99:1→90:10) as eluent: (0.619 g, 74%).

reactant | 6-chloro-N-[(1R)-1-phenylethyl]pyrazin-2-amine | 2.61 mmol, 0.611 g | ClC1=CN=CC(=N1)N[C@H](C)C1=CC=CC=C1 | C12H12ClN3
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 3.14 mmol, 0.785 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
reactant | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 2.6 mmol, 2M, 1.6 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.26 mmol, 0.30 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Methoxy-4-(6-{[(1R)-1-phenylethyl]amino}pyrazin-2-yl)phenol | COC1=C(C=CC(=C1)C1=NC(=CN=C1)N[C@H](C)C1=CC=CC=C1)O | C19H19N3O2
